US08049015B2
To (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine (2.35 g, 8.33 mmol) in CH2Cl2 (24 mL) was added triethylamine (1.8 mL, 12.5 mmol), followed by benzyl isocyanate (1.22 mL, 10.0 mmol), and the reaction was stirred at room temperature for 50 minutes. The mixture was worked up with CH2Cl2 and H2O, and the combined organic layers were dried, filtered, and concentrated. The residue was dissolved in CH2Cl2 and filtered to remove solids, and the filtrate was purified by silica gel chromatography to give 3-benzyl-1-(2-bromo-5-trifluoromethyl-benzyl)-1-ethyl-urea.

reactant | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine | 8.33 mmol, 2.35 g | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
reactant | triethylamine | 12.5 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl isocyanate | 10.0 mmol, 1.22 mL | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | H2O | O | H2O
solvent | CH2Cl2 | 24 mL | C(Cl)Cl | CH2Cl2
product | 3-benzyl-1-(2-bromo-5-trifluoromethyl-benzyl)-1-ethyl-urea | C(C1=CC=CC=C1)NC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)Br)=O | C18H18BrF3N2O
